US07238707B2
2-Cyclopentyl-2-hydroxy-4-methyl-4-phenylpentanoic Acid-ethyl Ester
2.13 ml of a 2 M ethereal cyclopentyl magnesium chloride solution is added in drops at −70° C. to a solution of 1.0 g of 4-methyl-4-phenyl-2-oxopentanoic acid-ethyl ester in 20 ml of THF. After 3 hours at −70° C., the batch is poured into cold, saturated NH4Cl solution and extracted with ethyl acetate. The extracts are dried (Na2SO4) and concentrated by evaporation. Column chromatography on silica gel with ethyl acetate-cyclohexane yields 320 mg of the product.

reactant | cyclopentyl magnesium chloride | 2 M | C1(CCCC1)[Mg]Cl
reactant | 4-methyl-4-phenyl-2-oxopentanoic acid-ethyl ester | 1.0 g | C(C)OC(C(CC(C)(C1=CC=CC=C1)C)=O)=O | C14H18O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-Cyclopentyl-2-hydroxy-4-methyl-4-phenylpentanoic Acid-ethyl Ester | 320 mg | C(C)OC(C(CC(C)(C1=CC=CC=C1)C)(O)C1CCCC1)=O | C19H28O3
